Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1][C@@:2]([H:3])([C:4]=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],4.59373964356
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][H:7]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6],2.11516875076
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.43685826514
[H:1][C:2]([H:3])=[C:4]1[C:5][C:6]([H:7])([H:8])[O:9]1>>[H:1][C:2]([H:3])=[C:4][O:9][C:6]([C:5])([H:7])[H:8],3.4017482254400004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-0.7167465243699999
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.57219287443
[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11],-4.66989989828
[C:4]([H:5])[H:6].[H:1][C:2]([H:3])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.5204419111300003
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.68239461
[C:1]#[C:2][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.88638536838
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13].[O:14][H:15]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-5.38126329928
[C:1]#[C:2][C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],7.53489925352
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[H:9],-3.72597466792
[H:1][C:2][C:11]([H:12])([H:13])[H:14].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.41532198823
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1],1.85994591539
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],0.825414264752
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.64121828014
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.194035814378
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11].[H:7],4.36887784366
[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.10358048387
[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:3][H:4],3.36325009181
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-3.01941301866
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])=[O:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10],-1.87232334921
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.0435654210400003
[C:1]#[C:2][C:3][O:4][C:5]#[C:6][H:7]>>[C:1].[C:2]#[C:3][O:4][C:5]#[C:6][H:7],6.4477347
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11],1.02575786994
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-3.61110463142
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.53401736863
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],5.164870377850001
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])[H:10].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],-2.57435404985
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4],5.24098813312
